US07161005B2
A solution in 20 ml of dichloromethane of 1.61 g (6 mmol) of 4′-chloro-2,2′:6′,2″-terpyridine and 20 ml of N-methylaminoethanol are added in succession to a solution of 1.35 g (6.8 mmol) of iron(II) chloride tetrahydrate in 100 ml of isopropanol. The mixture is then boiled at reflux for 20 hours. The mixture is concentrated and a solution of 1.66 g of ammonium hexafluorophosphate in 10 ml of methanol is added. The resulting violet precipitate is washed four times using 50 ml of diethyl ether each time and once with 50 ml of water. The residue is then stirred for 14 hours in a solution of 4 g of sodium hydroxide in 300 ml of water/acetonitrile (1:1 v/v) in an oxygen atmosphere. Filtration is carried out over kieselguhr and the residue is washed with 50 ml of water, 50 ml of acetonitrile and 100 ml of dichloromethane. The filtrates are concentrated. Extraction is carried out four times with dichloromethane and the combined organic extracts are dried over sodium sulfate, filtered and concentrated. The residue is recrystallised from acetone/petroleum ether and acetonitrile; 2-(methyl-[2,2′;6′,2″]terpyridin-4′-yl-amino)-ethanol is obtained in the form of a white solid. MS (ESI pos., KF), m/z=345 (100, [M+K]+); 307 (35, [M+H]+).

reactant | 4′-chloro-2,2′:6′,2″-terpyridine | 6 mmol, 1.61 g | ClC1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C15H10ClN3
reactant | N-methylaminoethanol | 20 ml | CNC(C)O | C3H9NO
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | iron(II) chloride tetrahydrate | 6.8 mmol, 1.35 g | O.O.O.O.[Fe](Cl)Cl
product | 2-(methyl-[2,2′;6′,2″]terpyridin-4′-yl-amino)-ethanol | CN(CCO)C1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C18H18N4O
